US06380249B1
To a 500 mL round bottomed flask with a stirring bar and a nitrogen inlet was added of 1-(3-bromo-4-(2-methoxyethoxy)-5-methoxyphenyl)-1-phenylmethanol (12.83 g, 34.94 mmol), dry methylene chloride (200 mL) and triethylsilane (13.87 mL, 87.34 mmol). This solution was cooled in an ice bath and borontrifluoride etherate (4.43 mL, 34.94 mmol) was added with a syringe over 5 min. The mixture was aged 2 h at 0° C. The reaction was quenched with saturated aqueous sodium bicarbonate solution and the mixture was extracted with chloroform. The chloroform fraction was washed with brine, dried (MgSO4), filtered and concentrated in vacuo. This material was chromatographed on 400 g of silica gel using 20/80 EtOAc-hexane as eluant to give 9.45 g of 1-(3-bromo-4-(2-methoxyethoxy)-5-methoxyphenyl)-1-phenylmethane as an oil. 1H NMR (CDCl3): δ3.44 (s, 3H); 3.74 (t, j=4 Hz, 2H); 3.77 (s, 3H); 3.88 (s, 2H); 4.13 (t, j=4 Hz, 2H); 6.64 (d, j=2Hz, 1H); 6.94 (d, j=2Hz, 1H); 7.26 (m, 5H).

reactant | 1-(3-bromo-4-(2-methoxyethoxy)-5-methoxyphenyl)-1-phenylmethanol | 34.94 mmol, 12.83 g | BrC=1C=C(C=C(C1OCCOC)OC)C(O)C1=CC=CC=C1 | C17H19BrO4
reactant | triethylsilane | 87.34 mmol, 13.87 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | borontrifluoride etherate | 34.94 mmol, 4.43 mL | B(F)(F)F.CCOCC
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 1-(3-bromo-4-(2-methoxyethoxy)-5-methoxyphenyl)-1-phenylmethane | 9.45 g | BrC=1C=C(C=C(C1OCCOC)OC)CC1=CC=CC=C1 | C17H19BrO3
